US08420863B2
To a solution of 3-(3-bromo-5-fluorophenyl)-3-hydroxypropanenitrile (2.50 g, 8.65 mmol) in THF (16.0 mL) was added borane methyl sulfide (1.20 g, 15.7 mmol). The mixture was heated to reflux for 2 h. After cooling to room temperature, saturated aqueous NaHCO3 (10 mL) was added and the mixture was stirred for 1 h. The THF was removed under reduced pressure and the remaining aqueous portion was extracted with ethyl acetate (2×60 ml). The extract was dried (Na2SO4) and concentrated to give 3-amino-1-(3-bromo-5-fluorophenyl)propan-1-ol that was used in following reaction without further purification.

reactant | 3-(3-bromo-5-fluorophenyl)-3-hydroxypropanenitrile | 8.65 mmol, 2.50 g | BrC=1C=C(C=C(C1)F)C(CC#N)O | C9H7BrFNO
reactant | borane methyl sulfide | 15.7 mmol, 1.20 g | CSC.B
reactant | NaHCO3 | 10 mL | C(=O)(O)[O-].[Na+]
solvent | THF | 16.0 mL | C1CCOC1 | C4H8O
product | 3-amino-1-(3-bromo-5-fluorophenyl)propan-1-ol | NCCC(O)C1=CC(=CC(=C1)F)Br | C9H11BrFNO
